US07101880B2
A solution of oxalyl chloride (15.24 g, 120 mmol) in 200 mL of MeCl2 was stirred and cooled to −60° C. followed by the drop wise addition of dimethylsulfoxide (19.7 g, 252 mmol) in 60 mL of MeCl2. After 10 min, a solution of 2-Boc-amino-2-methyl-1-propanol (18.9 g, 100 mmol) in MeCl2 (60 mL) was added drop wise at −70° C. The reaction mixture was allowed to warm to −40° C. for 10 min followed by cooling to −70° C. before the addition of a solution of triethylamine (28.28 g, 280 mmol) in MeCl2 (60 mL). The reaction mixture was allowed to warm to room temperature over a two-hour period and 40 mL of saturated sodium dihydrogen phosphate was added. The organic layer was washed with brine and dried over MgSO4. The solvent was removed to yield 17.3 g of 2-Boc-amino-2-methylpropionaldehyde.

reactant | oxalyl chloride | 120 mmol, 15.24 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 252 mmol, 19.7 g | CS(=O)C | C2H6OS
reactant | 2-Boc-amino-2-methyl-1-propanol | 100 mmol, 18.9 g | C(=O)(OC(C)(C)C)C(C(O)N)(C)C | C9H19NO3
reactant | triethylamine | 280 mmol, 28.28 g | C(C)N(CC)CC | C6H15N
reactant | sodium dihydrogen phosphate | 40 mL | P(=O)(O)(O)[O-].[Na+]
solvent | MeCl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | MeCl2 | 60 mL | C(Cl)Cl | CH2Cl2
solvent | MeCl2 | 60 mL | C(Cl)Cl | CH2Cl2
solvent | MeCl2 | 60 mL | C(Cl)Cl | CH2Cl2
product | 2-Boc-amino-2-methylpropionaldehyde | 17.3 g | C(=O)(OC(C)(C)C)C(C=O)(CN)C | C9H17NO3
